US08748624B2
STEP C: ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(2-formyl-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate (76 mg, 0.16 mmol) and 4′-chloro-[1,1′-biphenyl]-4-amine (40 mg, 0.20 mmol) in DMSO (0.16 mL) was stirred at 100° C. After 30 min EtOH (0.16 mL) was added and the resulting homogeneous solution was stirred at 100° C. After 1 h the resulting homogeneous solution was cooled to room temperature, and NaBH4 (20 mg, 0.53 mmol), EtOH (1 mL), and DMSO (0.5 mL) were added and the resulting mixture was stirred. After 30 min, additional NaBH4 (20 mg, 0.53 mmol) was added and the resulting homogeneous solution was stirred. After 20 min the resulting mixture was diluted with DCM (5 mL) and 1 M NaH2PO4 (4 mL) was carefully added. Water was added and the aqueous phase was extracted with DCM. The combined organic layers were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-formyl-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate | 0.16 mmol, 76 mg | C(=O)C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H16F6N2O4
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.20 mmol, 40 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | EtOH | 0.16 mL | CCO | C2H6O
reactant | NaBH4 | 0.53 mmol, 20 mg | [BH4-].[Na+]
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | NaBH4 | 0.53 mmol, 20 mg | [BH4-].[Na+]
solvent | DMSO | 0.16 mL | CS(=O)C | C2H6OS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C32H26ClF6N3O3
